US04342692
1-(3',4'-Dimethoxyphenyl)-7-(4'-fluorophenyl)-2-nitro-5-heptanone
To a solution of 48.5 g (0.23 mole) of 2-(3',4'-dimethoxyphenyl)-1-nitroethane in 400 ml of dry tetrahydrofuran was added 96.0 (0.23 mole) of 40% Triton B. The solution was stirred at room temperature for 10 minutes. 66.7 g (0.23 mole) of 1-iodo-5-(4'-fluorophenyl)-3-pentanone in a minimum amount of dry tetrahydrofuran was added dropwise. The mixture was heated at 50° C. for 3 hours, then allowed to stir at room temperature overnight. Solvent was removed in vacuo and the residue taken up in ether and extracted twice with water. The organic layer was dried over anh MgSO4, filtered and concentrated at reduced pressure to obtain a crude oil. The crude material was passed through HPLC to give 79 g purified material.

reactant | 2-(3',4'-dimethoxyphenyl)-1-nitroethane | 0.23 mole, 48.5 g | COC=1C=C(C=CC1OC)CC[N+](=O)[O-] | C10H13NO4
reactant | 1-iodo-5-(4'-fluorophenyl)-3-pentanone | 0.23 mole, 66.7 g | ICCC(CCC1=CC=C(C=C1)F)=O | C11H12FIO
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-(3',4'-Dimethoxyphenyl)-7-(4'-fluorophenyl)-2-nitro-5-heptanone | COC=1C=C(C=CC1OC)CC(CCC(CCC1=CC=C(C=C1)F)=O)[N+](=O)[O-] | C21H24FNO5
